### PR TITLE
feat: add hardest theorems from LeanTriathlon

### PR DESCRIPTION
**Pull request by BoltonBailey**
This PR adds the hardest entries from [LeanTriathlon](https://github.com/project-numina/LeanTriathlon). I found these by asking for an estimate from Claude of the number of informal pages of math to prove: These are the only theorems in LeanTriathlon which are

* Not already in lean-eval in some form 
* Take more ~pages than Thue-Siegel-Roth theorem and Mergelyan's theorem, which appear both in lean-eval and LeanTriathlon and which have already been solved on the lean-eval leaderboard.

So perhaps these are the theorems that give us a good chance of distinguishing ultra-powerful models. The theorems are: 

* Friedlander–Iwaniec theorem. "There are infinitely many primes of the form `a² + b⁴`."
* ~~Duffin–Schaeffer Conjecture / Koukoulopoulos–Maynard theorem on rational approximability.~~
* Linnik's theorem on the least prime in an arithmetic progression. (In the interest of maximizing difficulty, I made the constant the lowest explicit constant I could find with a paper written in English.)
* The Bhargava-Hanke 290 theorem on integral quadratic forms.

Perhaps the Friedlander-Iwaniec theorem could have been replaced by the later a^3 + 2b^3 Heath-Brown result which is said to be similar, but it seems less well known, and I am ultimately not sure it is more difficult.

I have done my best to present some outlines of the formal proofs for these, but these are theorems with really long proofs, which makes them hard to summarize. In the case of the Koukoulopoulos-Maynard theorem, there does not really seem to be a succinct description of their approach in their paper or elsewhere on the internet, so I left it blank.

### CODE REVIEW

**Comment by BoltonBailey** [comment]
Ok in the interest of making this easier to review I am sidestepping this bug I mentioned by moving the license headers. I'm going to mark this ready, let me know if there is anything serious that's missing.

**Comment by BoltonBailey** [comment]
Very sorry about this - after seeing activity on this PR I became paranoid and started looking harder at an aspect of the Duffin Schaefer theorem I didn't understand, and I ran Fable, I think at a higher power level than I had before, and it is suggesting that the statement is weaker than the statement in the paper, I want to think through it again so ~~I'm going to mark as draft~~. UPDATE ok, I have fixed Fable's comment and I think it is fine again.

**Comment by BoltonBailey** [comment]
Ok, this theorem has been very frustrating to audit on many fronts due to at least three or four small distinctions between how Koukoulopoulos-Maynard state it and how Duffin-Schaeffer state it. This gets the model to constantly complain about how faithful you are being to either one.

In the interest of concreteness, I am picking the Koukoulopoulos-Maynard version. Fable max says all of the theorems are true and faithful to the references I provided (if it's wrong, god help us).

**Comment by kim-em** [comment]
:robot: Claude says:

The namespacing needs fixing before this can merge. `TwoNinetyTheorem.lean` declares `TakesValue`, `Universal` and `Integral` straight into Mathlib's `Matrix` namespace — `Matrix.Integral` and `Matrix.Universal` are names a Mathlib bump or a future problem could collide with, and everything in this repo builds as one library. Compare `ConwaySchneebergerFifteen.lean`, which keeps its helpers in a problem-local namespace. Could you also nest all four files under `namespace LeanEval` (205 of the 214 existing files do) and change `variable {R : Type}` to `Type*`?

No changes needed to the statements. The integer-valued (half-integral matrix) encoding in the 290 theorem is right, and complements the integer-matrix 15 theorem we already have.

File: LeanEval/NumberTheory/KoukoulopoulosMaynard.lean [hunk 1]
```diff
@@ -0,0 +1,34 @@
...
+
+section Main
+
+open MeasureTheory Set Nat
+
+@[eval_problem]
+theorem koukoulopoulos_maynard {ψ : ℕ → ℝ} (hψ : ∀ n, 0 ≤ ψ n)
+    (hdiv : ¬ Summable fun q ↦ φ q * ψ q / (q : ℝ)) :
+    ∀ᵐ x : ℝ, {(a, q) : ℤ × ℕ | a.gcd q = 1 ∧
+      |x - a / (q : ℝ)| ≤ ψ q / (q : ℝ)}.Infinite := by
```
Comment (alreadydone) [inline LeanEval/NumberTheory/KoukoulopoulosMaynard.lean]: #493 now has a more idiomatic formalization of the statement.

File: LeanEval/NumberTheory/Linnik.lean [hunk 2]
```diff
@@ -0,0 +1,40 @@
...
+
+/-- The least prime in the progression `a, a + d, a + 2d, …`
+(or `0` if no such prime exists). -/
+noncomputable def p (a d : ℕ) : ℕ := sInf ({a + k * d | k : ℕ} ∩ {p | p.Prime})
+
+/-- Linnik's theorem with the explicit constant `L = 5.5`: the least prime in the
+progression `a mod d` is bounded by `c * d ^ 5.5` for some constant `c`. -/
+@[eval_problem]
+theorem linnik : ∃ c : ℝ, ∀ ⦃a d : ℕ⦄,
+    0 < a → a < d → a.Coprime d → p a d ≤ c * (↑d : ℝ) ^ (5.5 : ℝ) := by
```
Comment (alreadydone) [inline LeanEval/NumberTheory/Linnik.lean]:
```suggestion
    0 < a → a < d → a.Coprime d → p a d ≤ c * d ^ (5.5 : ℝ) := by
```

File: LeanEval/NumberTheory/TwoNinetyTheorem.lean [hunk 3]
```diff
@@ -0,0 +1,59 @@
...
+/-- A quadratic form, represented as a matrix, is universal if it takes every
+positive integer value. -/
+def Universal (M : Matrix (Fin n) (Fin n) R) : Prop :=
+  ∀ m : ℕ, 0 < m → TakesValue M m
+
+/-- A quadratic form is integral if it takes only integer values on integer
+vectors. -/
+def Integral (M : Matrix (Fin n) (Fin n) R) : Prop :=
+  ∀ v : Fin n → ℤ,
+    (fun i => (v i : R)) ⬝ᵥ (M *ᵥ (fun i => (v i : R))) ∈ Set.range ((↑) : ℤ → R)
```
Comment (alreadydone) [inline LeanEval/NumberTheory/TwoNinetyTheorem.lean]: You could define `evalQ` like in
https://github.com/leanprover/lean-eval/blob/24a03a21451dc039556ee55ade1d2d788842636e/LeanEval/NumberTheory/ConwaySchneebergerFifteen.lean#L27-L28
to avoid writing the evaluation twice. Writing `(v · : _ → R)` is a bit shorter than `(fun i => (v i : R))`.
Using [Matrix.PosDef](https://leanprover-community.github.io/mathlib4_docs/Mathlib/LinearAlgebra/Matrix/PosDef.html#Matrix.PosDef) is nice, it could be used to state the 15 theorem too.

Comment (BoltonBailey) [reply LeanEval/NumberTheory/TwoNinetyTheorem.lean]: I guess this would be even shorter?

```lean
def evalQ (M : Matrix (Fin n) (Fin n) R) (v : Fin n → R) : R := v ⬝ᵥ M *ᵥ v
```

Comment (BoltonBailey) [reply LeanEval/NumberTheory/TwoNinetyTheorem.lean]: This comment about changing the fifteen theorem is true, but perhaps its should be a separate PR.

Comment (alreadydone) [reply LeanEval/NumberTheory/TwoNinetyTheorem.lean]: > I guess this would be even shorter?

I think Lean can't coerce a function to Int to a function to Real ...

File: LeanEval/NumberTheory/FriedlanderIwaniec.lean [hunk 4]
```diff
@@ -0,0 +1,29 @@
...
+
+section Main
+
+open Nat
+
+@[eval_problem]
+theorem friedlander_iwaniec : {p : ℕ | p.Prime ∧ ∃ a b, p = a ^ 2 + b ^ 4}.Infinite := by
+  sorry
+
+end Main
```
Comment (alreadydone) [inline LeanEval/NumberTheory/FriedlanderIwaniec.lean]: similarly for the others problems (except `open Matrix` can't be removed)
```suggestion
@[eval_problem]
theorem friedlander_iwaniec : {p : ℕ | p.Prime ∧ ∃ a b, p = a ^ 2 + b ^ 4}.Infinite := by
  sorry
```

File: LeanEval/NumberTheory/Linnik.lean [hunk 5]
```diff
@@ -0,0 +1,40 @@
...
+/-!
+# Linnik's theorem (L = 5.5)
+
+The least prime in the arithmetic progression `a mod d` (for `a` coprime to `d`)
+is bounded polynomially in `d`, with the explicit Linnik constant `L = 5.5`
+(due to Heath-Brown, 1992).
+
+ See D. R. Heath-Brown, *Zero-free regions for Dirichlet L-functions, and the
+ least prime in an arithmetic progression*, Proc. London Math. Soc. (3) 64
+ (1992), no. 2, 265–338. <https://doi.org/10.1112/plms/s3-64.2.265>
```
Comment (alreadydone) [inline LeanEval/NumberTheory/Linnik.lean]: Why are the second paragraph always indented by one space (same in the other problems)?

File: LeanEval/NumberTheory/TwoNinetyTheorem.lean [hunk 6]
```diff
@@ -0,0 +1,64 @@
...
+/-- The 29 critical numbers of the 290 theorem. -/
+def critical_290_numbers : Finset ℕ :=
+  {1, 2, 3, 5, 6, 7, 10, 13, 14, 15, 17, 19, 21, 22, 23, 26, 29, 30, 31,
+   34, 35, 37, 42, 58, 93, 110, 145, 203, 290}
+
+@[eval_problem]
+theorem two_ninety_theorem {n : ℕ} (M : Matrix (Fin n) (Fin n) ℝ)
+    (hpos : M.PosDef)
+    (hIntegral : Integral M)
+    (hrep : ∀ m ∈ critical_290_numbers, Represents M m) :
```
Comment (alreadydone) [inline LeanEval/NumberTheory/TwoNinetyTheorem.lean]:
```suggestion
/-- The 29 critical numbers of the 290 theorem. -/
def critical29Numbers : Finset ℕ :=
  {1, 2, 3, 5, 6, 7, 10, 13, 14, 15, 17, 19, 21, 22, 23, 26, 29, 30, 31,
   34, 35, 37, 42, 58, 93, 110, 145, 203, 290}

@[eval_problem]
theorem two_ninety_theorem {n : ℕ} (M : Matrix (Fin n) (Fin n) ℝ)
    (hpos : M.PosDef)
    (hIntegral : Integral M)
    (hrep : ∀ m ∈ critical29Numbers, Represents M m) :
```

**Review by alreadydone — APPROVED** [review]

File: LeanEval/NumberTheory/Linnik.lean (hunk 5 above)
Comment (BoltonBailey) [reply LeanEval/NumberTheory/Linnik.lean]: I think this was probably the model's choice when I asked it to make sure references were present. I take it as a way to visually distinguish this as a reference and not really part of the main text, sort of like how footnotes are often offset in this way, but perhaps it feels too in the vein of uncanny LLM formatting quirks?

File: LeanEval/NumberTheory/TwoNinetyTheorem.lean (hunk 6 above)
Comment (BoltonBailey) [reply LeanEval/NumberTheory/TwoNinetyTheorem.lean]: I am actually going to change it to just `criticalNumbers`, since `TwoNinety` is already in the namespace and usually numerals don't appear in identifiers.

File: LeanEval/NumberTheory/Linnik.lean (hunk 5 above)
Comment (BoltonBailey) [reply LeanEval/NumberTheory/Linnik.lean]: I'll remove them.

**Comment by BoltonBailey** [comment]
-awaiting-author
